US07939540B2
Synthesis of N-[3-(6,7-dimethoxy-2-methylaminoquinazolin-4-yl)phenyl]terephthalamic acid hydrochloride
To a solution of 2.5 g of methyl N-[3-(6,7-dimethoxy-2-methylaminoquinazolin-4-yl)phenyl]terephthalamic acid dissolved in a mixed solvent consisting of 50 mL of tetrahydrofuran and 25 mL of methanol was added 11.3 mL of a 5 N sodium hydroxide solution, followed by stirring at room temperature for 12 hours. The reaction mixture was adjusted to be acidic by addition of 5 N hydrochloric acid, and the obtained solid was then filtrated, washed with 10 mL of water and 20 mL of ether, and dried under aeration to yield 2.5 g of a product of interest. Yield: 95.3%.

reactant | methyl N-[3-(6,7-dimethoxy-2-methylaminoquinazolin-4-yl)phenyl]terephthalamic acid | 2.5 g | CC1=C(C(=O)O)C=CC(=C1)C(=O)NC1=CC(=CC=C1)C1=NC(=NC2=CC(=C(C=C12)OC)OC)NC | C26H24N4O5
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
product | N-[3-(6,7-dimethoxy-2-methylaminoquinazolin-4-yl)phenyl]terephthalamic acid hydrochloride | 2.5 g, Yield: 95.3% | Cl.COC=1C=C2C(=NC(=NC2=CC1OC)NC)C=1C=C(C=CC1)NC(C1=CC=C(C(=O)O)C=C1)=O | InChI=1S/C25H22N4O5.ClH/c1-26-25-28-19-13-21(34-3)20(33-2)12-18(19)22(29-25)16-5-4-6-17(11-16)27-23(30)14-7-9-15(10-8-14)24(31)32;/h4-13H,1-3H3,(H,27,30)(H,31,32)(H,26,28,29);1H
